US05153217
A mixture of 14.1 g (60 mmol) of undecyl bromide and 15.7 g (60 mmol) of triphenylphosphine was refluxed in xylene for 15 hours, and the xylene was evaporated off. The mixture was added with ether and the supernatant was removed by decantation. This procedure was repeated thrice to obtain 19.3 g of undecyltriphenylphosphonium bromide. The bromide was dissolved in 200 ml of tetrahydrofuran and 20 ml (32 mmol) of a hexane solution (1.6 molar concentration) of 15% n-butyl lithium was added dropwise thereto under stirring and cooling with ice. After 10-minute stirring, a solution of 2.17 g (13 mmol) of (2-methoxycarbonylpyrrole)-4-acetaldehyde obtained in Synthesis Example 12 in 6 ml of tetrahydrofuran was added dropwise to the mixture under cooling with ice, and the mixture was allowed to react for 30 minutes. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was collected, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The residue obtained by evaporation was purified by a silica-gel column chromatography (eluent:ethyl acetate/hexane=1/10) to obtain 3.41 g of oil methyl 4-(2-tridecenyl)pyrrole-2-carboxylate. The yield was 86%.

reactant | undecyl bromide | 60 mmol, 14.1 g | C(CCCCCCCCCC)Br | C11H23Br
reactant | triphenylphosphine | 60 mmol, 15.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | undecyltriphenylphosphonium bromide | 19.3 g | [Br-].C(CCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C29H38P.BrH/c1-2-3-4-5-6-7-8-9-19-26-30(27-20-13-10-14-21-27,28-22-15-11-16-23-28)29-24-17-12-18-25-29;/h10-18,20-25H,2-9,19,26H2,1H3;1H/q+1;/p-1
